US09062045B2
3-(morpholinomethyl)quinolin-6-yl trifluoromethanesulfonate (Intermediate Q35)
To a solution of 3-(morpholinomethyl)quinolin-6-ol (400 mg, 1.637 mmol) in pyridine (5 ml) was added trifluoromethanesulfonic anhydride (462 mg, 1.637 mmol) and the mixture was stirred at rt for 8 h. The reaction was quenched with saturated aqueous NaHCO3 solution. The aqueous phase was extracted with DCM for 3 times The extract was washed with water and brine. The organic phase was dried over MgSO4, filtered and concentrated. The residue was purified by silica gel chromatography to afford the title compound as yellow oil (110 mg, 16.1% yield). LCMS (method B): [M+H]+=377, tR=1.78 min.

reactant | 3-(morpholinomethyl)quinolin-6-ol | 1.637 mmol, 400 mg | O1CCN(CC1)CC=1C=NC2=CC=C(C=C2C1)O | C14H16N2O2
reactant | trifluoromethanesulfonic anhydride | 1.637 mmol, 462 mg | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | 3-(morpholinomethyl)quinolin-6-yl trifluoromethanesulfonate | 110 mg, 16.1% yield | FC(S(=O)(=O)OC=1C=C2C=C(C=NC2=CC1)CN1CCOCC1)(F)F | C15H15F3N2O4S
